US06399619B1
Step A: 4-((N-(4-(trifluoromethyl)benzyl)carbamoyl)methyl)-piperidine hydrochloride
4-Carboxymethyl-1-tert-butoxycarbonylpiperidine (207 mg, 0.85 mmol, commercially available from Neosystem), 1-(3-(N,N-dimethylamino)-prop-1-yl)-3-ethylcarbodiimide hydrochloride (EDC) (177 mg, 0.92 mmol) and 4-(N,N-dimethylamino)pyridine (2 mg, 0.02 mmol) were dissolved in 4 mL of CH2Cl2. (4-(Trifluoromethyl)benzyl)amine (0.114 mL, 0.8 mmol) was added and the reaction was stirred at rt for 14 h. The mixture was diluted with CH2Cl2, washed with 1 N NaOH, 1 N HCl and brine and dried over MgSO4. The solvent was removed, the residue was redissolved in 1% HCl/methanol and the solution was heated to 50° C. for 24 h. The solution was then concentrated to afford 208 mg (77%) of the title compound. ESI-MS: 301.1 (M+H); HPLC A: 1.66 min.

reactant | 4-Carboxymethyl-1-tert-butoxycarbonylpiperidine | C(=O)(O)CC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | 1-(3-(N,N-dimethylamino)-prop-1-yl)-3-ethylcarbodiimide hydrochloride | 0.92 mmol, 177 mg | Cl.CN(C)CCCN=C=NCC
reactant | (4-(Trifluoromethyl)benzyl)amine | 0.8 mmol, 0.114 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.02 mmol, 2 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-((N-(4-(trifluoromethyl)benzyl)carbamoyl)methyl)-piperidine hydrochloride | 208 mg, 77% | Cl.FC(C1=CC=C(CNC(=O)CC2CCNCC2)C=C1)(F)F | InChI=1S/C15H19F3N2O.ClH/c16-15(17,18)13-3-1-12(2-4-13)10-20-14(21)9-11-5-7-19-8-6-11;/h1-4,11,19H,5-10H2,(H,20,21);1H
